US03988454
N-Methyl-2-phenethylbenzylamine
A solution of 2.0 g. (0.00657 mole) of 2-(4-bromo-phenethyl)-N-methylbenzylamine hydrochloride in 200 ml. of absolute ethanol -- 1 ml. of triethylamine is shaken with hydrogen at atmospheric pressure and 25° C. over 400 mg. of 10% palladium on carbon until hydrogen uptake ceases. The catalyst is removed by filtration, the filtrate evaporated to dryness under reduced pressure, and the residue partitioned between aqueous sodium hydroxide and 1:1 ether-benzene. Evaporation of solvents from the washed and dried organic extract leaves the product as the residual oil. The oily base is converted to the hydrochloride salt by treating a solution in absolute ethanol with a slight excess of ethanolic hydrogen chloride. Dilution with absolute ether precipitates the hydrochloride as white crystals, m.p. 204°-206° C. After repeated recrystallizations from absolute ethanol-absolute ether, an analytical sample melts at 205°-206° C.

reactant | 2-(4-bromo-phenethyl)-N-methylbenzylamine hydrochloride | 0.00657 mole | Cl.BrC1=CC=C(CCC2=C(CNC)C=CC=C2)C=C1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | N-Methyl-2-phenethylbenzylamine | CNCC1=C(C=CC=C1)CCC1=CC=CC=C1 | C16H19N
